US03965015
Preparation of 1-phenyl-3-(aminooctyl) urea
22 grams (0.139 moles) 1,8 diaminooctane in 300 cc ether was reacted with 7.0 gms (.059 mole) phenylisocyanate. The precipitate was filtered and washed with ether, yielding 10.9 gms. Recrystallized from dimethylformamide and recovered 7.8 gms having a melting point of 200°-217°C.

reactant | 1,8 diaminooctane | 0.139 moles, 22 grams | NCCCCCCCCN | C8H20N2
reactant | phenylisocyanate | .059 mole, 7.0 gms | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | ether | 300 cc | CCOCC | C4H10O
product | 1-phenyl-3-(aminooctyl) urea | C1(=CC=CC=C1)NC(=O)NCCCCCCCCN | C15H25N3O
